US06147078
STEP B: 6-AMINO-2-METHYLTHIOPYRAZINE
A MIXTURE OF 6-AMINO-2-CHLOROPYRAZINE (5.2 G, 40 MMOL) AND SODIUM THIOMETHOXIDE (3.3 G, 47 MMOL) IN DRY DMF (30 ML) WERE HEATED IN A SEALED TUBE AT 100°C. FOR 16 H. THE REACTION WAS COOLED AND PARTITIONED BETWEEN WATER AND METHYLENE CHLORIDE. THE ORGANIC LAYER WAS DRIED (NA2SO4) AND EVAPORATED IN VACUO TO GIVE THE TITLE COMPOUND AS A CRYSTALLINE SOLID:

reactant | 6-AMINO-2-CHLOROPYRAZINE | NC1=CN=CC(=N1)Cl | C4H4ClN3
reactant | SODIUM THIOMETHOXIDE | C[S-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-AMINO-2-METHYLTHIOPYRAZINE | NC1=CN=CC(=N1)SC | C5H7N3S
